US08895582B2
To a mixture of t-BuOH (300 mL) and water (300 mL) were added K2CO3 (17.0 g, 123 mmol,), (DHQD)2Pyr (361 mg, 0.41 mmol), K2OsO2(OH)4(151 mg, 0.41 mmol), K3FeCN6 (40.5 g, 123 mmol) at RT The mixture was stirred at RT for 2 h and then cooled to 0° C. To the mixture was added a suspension of (S)-1-(1-(tert-butyldimethylsilyloxy)pent-4-en-2-yl)-3-(2-chloro-3-fluorobenzyl)-1-methylurea (17.0 g, 41 mmol) in 100 mL of t-BuOH/water (1:1), and the reaction was stirred at 0° C. overnight. LC-MS indicted the reaction was completed, Na2S2O3.5H2O (30.6 g, 123 mmol) was added to the reaction, and the reaction was stirred at RT for 30 min. The mixture was diluted with ethyl acetate (1 L), washed with water (250 mL×2) and brine (250 mL), dried over Na2SO4, and filtered. The filtrate was concentrated and purified on silica gel to give 1-((2S,4R)-1-(tert-butyldimethylsilyloxy)-4,5-dihydroxypentan-2-yl)-3-(2-chloro-3-fluorobenzyl)-1-methylurea (10.1 g, 55%) as a colorless oil.

reactant | t-BuOH | 300 mL | CC(C)(C)O | C4H10O
reactant | water | 300 mL | O | H2O
reactant | K2CO3 | 123 mmol, 17.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | (S)-1-(1-(tert-butyldimethylsilyloxy)pent-4-en-2-yl)-3-(2-chloro-3-fluorobenzyl)-1-methylurea | 41 mmol, 17.0 g | [Si](C)(C)(C(C)(C)C)OC[C@H](CC=C)N(C(=O)NCC1=C(C(=CC=C1)F)Cl)C | C20H32ClFN2O2Si
solvent | t-BuOH water | 100 mL | CC(C)(C)O.O
solvent | ethyl acetate | 1 L | C(C)(=O)OCC | C4H8O2
catalyst | (DHQD)2Pyr | 0.41 mmol, 361 mg | CC[C@H]1CN2CC[C@H]1C[C@@H]2[C@H](C3=C4C=C(C=CC4=NC=C3)OC)OC5=C(C(=NC(=N5)C6=CC=CC=C6)O[C@H]([C@H]7C[C@@H]8CCN7C[C@@H]8CC)C9=C1C=C(C=CC1=NC=C9)OC)C1=CC=CC=C1 | C56H60N6O4
product | 1-((2S,4R)-1-(tert-butyldimethylsilyloxy)-4,5-dihydroxypentan-2-yl)-3-(2-chloro-3-fluorobenzyl)-1-methylurea | 10.1 g, 55% | [Si](C)(C)(C(C)(C)C)OC[C@H](C[C@H](CO)O)N(C(=O)NCC1=C(C(=CC=C1)F)Cl)C | C20H34ClFN2O4Si
